* NGSPICE file created from tt_um_Bingyao_FCOTA.ext - technology: sky130A

.subckt sky130_fd_pr__pfet_01v8_NJEU8C G D B S
X0 S G D B sky130_fd_pr__pfet_01v8 ad=0.348 pd=2.98 as=0.348 ps=2.98 w=1.2 l=0.4
.ends

.subckt sky130_fd_pr__nfet_01v8_WVN3PK G D B S
X0 S G D B sky130_fd_pr__nfet_01v8 ad=2.32 pd=16.58 as=2.32 ps=16.58 w=8 l=0.4
.ends

.subckt sky130_fd_pr__nfet_01v8_J89NCU G D B S
X0 S G D B sky130_fd_pr__nfet_01v8 ad=0.174 pd=1.78 as=0.174 ps=1.78 w=0.6 l=0.4
.ends

.subckt sky130_fd_pr__pfet_01v8_NM5A7C B a_109_n800# D0 G1 G0 S1
X0 S1 G0 D0 B sky130_fd_pr__pfet_01v8 ad=1.16 pd=8.29 as=2.32 ps=16.58 w=8 l=0.4
X1 a_109_n800# G1 S1 B sky130_fd_pr__pfet_01v8 ad=2.32 pd=16.58 as=1.16 ps=8.29 w=8 l=0.4
.ends

.subckt sky130_fd_pr__pfet_01v8_NMD27C G D B S
X0 S G D B sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.58 as=1.74 ps=12.58 w=6 l=0.4
.ends

.subckt biasing vdo VA VB VC VD vdd vss
XXM12 VB XM12/D vdd vdd sky130_fd_pr__pfet_01v8_NJEU8C
XXM1 VC VC vss XM2/D sky130_fd_pr__nfet_01v8_WVN3PK
XXM2 VC XM2/D vss vss sky130_fd_pr__nfet_01v8_J89NCU
XXM3 VC VD vss XM4/D sky130_fd_pr__nfet_01v8_WVN3PK
XXM4 VD XM4/D vss vss sky130_fd_pr__nfet_01v8_J89NCU
XXM5 VC VA vss XM6/D sky130_fd_pr__nfet_01v8_WVN3PK
XXM6 VD XM6/D vss vss sky130_fd_pr__nfet_01v8_J89NCU
XXM7 VC VB vss XM8/D sky130_fd_pr__nfet_01v8_WVN3PK
XXM9 vdd VA VA VB VB XM9/S1 sky130_fd_pr__pfet_01v8_NM5A7C
XXM8 VD XM8/D vss vss sky130_fd_pr__nfet_01v8_J89NCU
XXM10 vdd VB VB VB VB XM12/D sky130_fd_pr__pfet_01v8_NM5A7C
XXM32 vdo vdd vdd VC sky130_fd_pr__pfet_01v8_NMD27C
XXM11 VA XM9/S1 vdd vdd sky130_fd_pr__pfet_01v8_NJEU8C
XXM33 vdo vdd vdd VD sky130_fd_pr__pfet_01v8_NMD27C
.ends

.subckt sky130_fd_pr__nfet_01v8_AU26WV B D0 G0 S1 G1 a_109_n1200#
X0 a_109_n1200# G1 S1 B sky130_fd_pr__nfet_01v8 ad=3.48 pd=24.58 as=1.74 ps=12.29 w=12 l=0.4
X1 S1 G0 D0 B sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=3.48 ps=24.58 w=12 l=0.4
.ends

.subckt sky130_fd_pr__nfet_01v8_XM3YXQ B D0 G0 S1 G1 D2 G2 S3 G3 D4 G4 S5 G5 D6 G6
+ S7 G7 D8 G8 S9 G9 a_661_n1200#
X0 S3 G2 D2 B sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X1 S9 G8 D8 B sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X2 S1 G0 D0 B sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=3.48 ps=24.58 w=12 l=0.4
X3 D4 G3 S3 B sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X4 D6 G5 S5 B sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X5 D8 G7 S7 B sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X6 a_661_n1200# G9 S9 B sky130_fd_pr__nfet_01v8 ad=3.48 pd=24.58 as=1.74 ps=12.29 w=12 l=0.4
X7 S7 G6 D6 B sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X8 D2 G1 S1 B sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X9 S5 G4 D4 B sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
.ends

.subckt sky130_fd_pr__nfet_01v8_KA9NCW B D S G
X0 S G D B sky130_fd_pr__nfet_01v8 ad=0.464 pd=3.78 as=0.464 ps=3.78 w=1.6 l=0.4
.ends

.subckt sky130_fd_pr__nfet_01v8_EBA9PD B D S G
X0 S G D B sky130_fd_pr__nfet_01v8 ad=2.61 pd=18.58 as=2.61 ps=18.58 w=9 l=0.4
.ends

.subckt sky130_fd_pr__pfet_01v8_QB68LT B D0 G0 S1 G1 D2 G2 S3 G3 D4 G4 S5 G5 D6 G6
+ S7 G7 D8 G8 S9 G9 D10 G10 S11 G11 D12 G12 S13 G13 D14 G14 S15 G15 D16 G16 S17 G17
+ D18 G18 S19 G19 a_1351_n1200#
X0 S5 G4 D4 B sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X1 D14 G13 S13 B sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X2 S17 G16 D16 B sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X3 D6 G5 S5 B sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X4 D2 G1 S1 B sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X5 S9 G8 D8 B sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X6 S3 G2 D2 B sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X7 S11 G10 D10 B sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X8 S19 G18 D18 B sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X9 S13 G12 D12 B sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X10 S15 G14 D14 B sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X11 D12 G11 S11 B sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X12 D16 G15 S15 B sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X13 S7 G6 D6 B sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X14 D10 G9 S9 B sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X15 D18 G17 S17 B sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X16 S1 G0 D0 B sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=3.48 ps=24.58 w=12 l=0.4
X17 D8 G7 S7 B sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X18 D4 G3 S3 B sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X19 a_1351_n1200# G19 S19 B sky130_fd_pr__pfet_01v8 ad=3.48 pd=24.58 as=1.74 ps=12.29 w=12 l=0.4
.ends

.subckt sky130_fd_pr__pfet_01v8_NMMXDC B D0 G0 S1 G1 D2 G2 S3 G3 D4 G4 S5 G5 a_385_n400#
X0 S5 G4 D4 B sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.29 as=0.58 ps=4.29 w=4 l=0.4
X1 S3 G2 D2 B sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.29 as=0.58 ps=4.29 w=4 l=0.4
X2 D2 G1 S1 B sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.29 as=0.58 ps=4.29 w=4 l=0.4
X3 S1 G0 D0 B sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.29 as=1.16 ps=8.58 w=4 l=0.4
X4 D4 G3 S3 B sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.29 as=0.58 ps=4.29 w=4 l=0.4
X5 a_385_n400# G5 S5 B sky130_fd_pr__pfet_01v8 ad=1.16 pd=8.58 as=0.58 ps=4.29 w=4 l=0.4
.ends

.subckt sky130_fd_pr__nfet_01v8_6FB5RF B D0 G0 S1 G1 D2 G2 S3 G3 D4 G4 S5 G5 D6 G6
+ S7 G7 a_523_n1200#
X0 D2 G1 S1 B sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X1 a_523_n1200# G7 S7 B sky130_fd_pr__nfet_01v8 ad=3.48 pd=24.58 as=1.74 ps=12.29 w=12 l=0.4
X2 S3 G2 D2 B sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X3 S5 G4 D4 B sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X4 S7 G6 D6 B sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X5 D6 G5 S5 B sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X6 S1 G0 D0 B sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=3.48 ps=24.58 w=12 l=0.4
X7 D4 G3 S3 B sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
.ends

.subckt OTA vdd vip vin vc va vb vout vdo vss
XXM34 vdo vdd vdd XM34/S sky130_fd_pr__pfet_01v8_NMD27C
XXM23 vss XM23/D0 XM34/S vss XM34/S XM23/D0 sky130_fd_pr__nfet_01v8_AU26WV
XXM14 vss vout vc XM16/D vc vout vc XM16/D vc vout vc XM16/D vc vout vc XM16/D vc
+ vout vc XM16/D vc vout sky130_fd_pr__nfet_01v8_XM3YXQ
XXM13 vss XM16/G vc XM15/D vc XM16/G vc XM15/D vc XM16/G vc XM15/D vc XM16/G vc XM15/D
+ vc XM16/G vc XM15/D vc XM16/G sky130_fd_pr__nfet_01v8_XM3YXQ
XXM24 vss XM34/S vss XM34/S sky130_fd_pr__nfet_01v8_KA9NCW
XXM15 vss XM15/D vss XM16/G sky130_fd_pr__nfet_01v8_EBA9PD
XXM16 vss XM16/D vss XM16/G sky130_fd_pr__nfet_01v8_EBA9PD
XXM17 vdd XM16/G vb XM21/D6 vb XM16/G vb XM21/D6 vb XM16/G vb XM21/D6 vb XM16/G vb
+ XM21/D6 vb XM16/G vb XM21/D6 vb XM16/G vb XM21/D6 vb XM16/G vb XM21/D6 vb XM16/G
+ vb XM21/D6 vb XM16/G vb XM21/D6 vb XM16/G vb XM21/D6 vb XM16/G sky130_fd_pr__pfet_01v8_QB68LT
XXM18 vdd vout vb XM22/D6 vb vout vb XM22/D6 vb vout vb XM22/D6 vb vout vb XM22/D6
+ vb vout vb XM22/D6 vb vout vb XM22/D6 vb vout vb XM22/D6 vb vout vb XM22/D6 vb vout
+ vb XM22/D6 vb vout vb XM22/D6 vb vout sky130_fd_pr__pfet_01v8_QB68LT
XXM19 vdd XM22/D6 va vdd va XM22/D6 va vdd va XM22/D6 va vdd va XM22/D6 sky130_fd_pr__pfet_01v8_NMMXDC
XXM20 vdd XM21/D6 va vdd va XM21/D6 va vdd va XM21/D6 va vdd va XM21/D6 sky130_fd_pr__pfet_01v8_NMMXDC
XXM21 vss XM21/D6 vip XM23/D0 vip XM21/D6 vip XM23/D0 vip XM21/D6 vip XM23/D0 vip
+ XM21/D6 vip XM23/D0 vip XM21/D6 sky130_fd_pr__nfet_01v8_6FB5RF
XXM22 vss XM22/D6 vin XM23/D0 vin XM22/D6 vin XM23/D0 vin XM22/D6 vin XM23/D0 vin
+ XM22/D6 vin XM23/D0 vin XM22/D6 sky130_fd_pr__nfet_01v8_6FB5RF
.ends

.subckt sky130_fd_pr__nfet_01v8_8NR3P7 G D B S
X0 S G D B sky130_fd_pr__nfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.4
.ends

.subckt sky130_fd_pr__pfet_01v8_B6MYM2 G D B S
X0 S G D B sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=20
.ends

.subckt sky130_fd_pr__res_xhigh_po_1p41_6MYZWV B R2 R1
X0 R1 R2 B sky130_fd_pr__res_xhigh_po_1p41 l=5.3
.ends

.subckt sky130_fd_pr__nfet_01v8_8SA9P7 G D B S
X0 S G D B sky130_fd_pr__nfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.2
.ends

.subckt Beta_mult vdd vss
XXM25 vss vss vdd vdd sky130_fd_pr__pfet_01v8_NMD27C
XXM27 vss vss vss vss sky130_fd_pr__nfet_01v8_WVN3PK
XXM28 vss vss vss vss sky130_fd_pr__nfet_01v8_8NR3P7
XXM29 XM31/G XM31/G vdd vdd sky130_fd_pr__pfet_01v8_B6MYM2
Xsky130_fd_pr__res_xhigh_po_1p41_6MYZWV_0 vss vss vss sky130_fd_pr__res_xhigh_po_1p41_6MYZWV
XXM1 vss vss vdd vdd sky130_fd_pr__pfet_01v8_NMD27C
XXM30 vss XM31/G vss vss sky130_fd_pr__nfet_01v8_8NR3P7
XXM31 XM31/G vss vss XM31/S sky130_fd_pr__nfet_01v8_8SA9P7
.ends

.subckt tt_um_Bingyao_FCOTA clk ena rst_n ua[1] ua[2] ua[3] ua[4] ua[5] ua[6] ua[7]
+ ui_in[0] ui_in[1] ui_in[2] ui_in[3] ui_in[4] ui_in[5] ui_in[6] ui_in[7] uio_in[0]
+ uio_in[1] uio_in[2] uio_in[3] uio_in[4] uio_in[5] uio_in[6] uio_in[7] uio_oe[0]
+ uio_oe[1] uio_oe[2] uio_oe[3] uio_oe[4] uio_oe[5] uio_oe[6] uio_oe[7] uio_out[0]
+ uio_out[1] uio_out[2] uio_out[3] uio_out[4] uio_out[5] uio_out[6] uio_out[7] uo_out[0]
+ uo_out[1] uo_out[2] uo_out[3] uo_out[4] uo_out[5] uo_out[6] uo_out[7] VDPWR VGND
Xbiasing_0 VGND ua[1] biasing_0/VB ua[2] biasing_0/VD VDPWR VGND biasing
XOTA_0 VDPWR OTA_0/vip OTA_0/vin OTA_0/vc OTA_0/va OTA_0/vb OTA_0/vout OTA_0/vdo VGND
+ OTA
XBeta_mult_0 VDPWR VGND Beta_mult
.ends

